US06087502
To dry THF was dissolved 0.5 g/1.9 mmol of 2,5-diphenylbenzoquinone in argon atmosphere, and 85 mg/2.24 mmol of lithium aluminum hydride was added to the solution. After stirring at room temperature for 30 minutes, the reaction solution was added to ice containing 1N hydrochloric acid, and the mixture was allowed to stand for 30 minutes. The aqueous layer was extracted with ethyl acetate once, and the extract was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica, gel column chromatography using hexane-methylene chloride for the eluting solution to obtain 0.28 g of the desired 2,5-diphenyl-1,4-dihydroxybenzene. 1H-NNR (CDCl3 +DMSO-d6): δ 4.52 (2H, br), 6.91 (2H, s), 7.33 (6H, m), 7.61 (4H, m).

reactant | 2,5-diphenylbenzoquinone | 1.9 mmol | C1(=CC=CC=C1)C=1C(C=C(C(C1)=O)C1=CC=CC=C1)=O | C18H12O2
reactant | lithium aluminum hydride | 2.24 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 2,5-diphenyl-1,4-dihydroxybenzene | 0.28 g | C1(=CC=CC=C1)C1=C(C=C(C(=C1)O)C1=CC=CC=C1)O | C18H14O2
